US05908858
19(i) 4-Fluoro-N-(4-sulfamoylbenzylidene)aniline
Following a procedure similar to that described in Example 1(i), but using 4-sulfamoylbenzaldehyde and 4-fluoroaniline as starting materials, the title compound was obtained as white prismatic crystals (yield 25%).

reactant | 4-sulfamoylbenzaldehyde | S(N)(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 4-Fluoro-N-(4-sulfamoylbenzylidene)aniline | FC1=CC=C(N=CC2=CC=C(C=C2)S(N)(=O)=O)C=C1 | C13H11FN2O2S
